US09447046B2
Preparation 98a: 5-bromo-6-methoxy-1,2,3,4-tetrahydronaphthalen-1-one
To a suspension of 6-methoxy-1-tetralone (2.0 g, 11.4 mmol) and NBS (2.0 g, 11.4 mmol) in H2O (30 mL) was added conc. H2SO4 (1.2 mL, 22.7 mmol) at rt. The reaction was stirred at 60° C. for 3 h. The mixture was filtered, and concentrated. Purification by prep-HPLC gave 1.2 g (41%) of the title compound as a white solid. 1H NMR (400 MHz, CDCl3): δ 2.13-2.18 (2H, m), 2.61 (2H, t, J=6.0 Hz), 3.03 (2H, t, J=6.0 Hz), 3.97 (3H, s), 6.88 (1H, d, J=8.8 Hz), 8.06 (1H, d, J=8.8 Hz). [M+H] Calc'd for C11H11BrO2, 255, 257. Found, 255, 257.

reactant | 6-methoxy-1-tetralone | 11.4 mmol, 2.0 g | COC=1C=C2CCCC(C2=CC1)=O | C11H12O2
reactant | NBS | 11.4 mmol, 2.0 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | H2SO4 | 22.7 mmol, 1.2 mL | OS(=O)(=O)O | H2O4S
solvent | H2O | 30 mL | O | H2O
product | 5-bromo-6-methoxy-1,2,3,4-tetrahydronaphthalen-1-one | 1.2 g, 41% | BrC1=C2CCCC(C2=CC=C1OC)=O | C11H11BrO2
